US05808062
3-[(1,3-Benzodioxol-5-ylmethyl)thio]-4-hydroxy-6-phenyl-2H-pyran-2-one:
The title compound was prepared by Method B using 4-hydroxy-6-phenyl-2H-pyran-2-one (1.00 g, 5.31 mmol), ethanol (15 mL), 1N sodium hydroxide (5.31 mL), 1,3-benzodioxoyl-5-yl methyl p-toluenethiosulfonate (2.22 g, 6.90 mmol). m.p. 162°-164° C.; 1H NMR (400 MHz, DMSO-d6) δ 3.92 (s, 2 H), 5.95 (s, 2 H), 6.75 (m, 4 H), 7.53 (m, 3 H), 7.79 (m, 2 H).

reactant | 3,3'-Dithiobis[4-hydroxy-6-phenyl-2H-pyran-2-one] | 5.31 mmol, 1.00 g | OC1=C(C(OC(=C1)C1=CC=CC=C1)=O)SSC=1C(OC(=CC1O)C1=CC=CC=C1)=O | C22H14O6S2
reactant | sodium hydroxide | 1N, 5.31 mL | [OH-].[Na+]
reactant | methyl p-toluenethiosulfonate | 6.90 mmol, 2.22 g | C1(=CC=C(C=C1)S(=O)(OC)=S)C | C8H10O2S2
reactant | ethanol | 15 mL | C(C)O | C2H6O
product | 3-[(1,3-Benzodioxol-5-ylmethyl)thio]-4-hydroxy-6-phenyl-2H-pyran-2-one | O1COC2=C1C=CC(=C2)CSC=2C(OC(=CC2O)C2=CC=CC=C2)=O | C19H14O5S
